US04596680
Preparation of 4-(4'-nitrophenoxy)chlorobenzene
A mixture of bis(4-chlorophenyl)carbonate (5.7 g, i.e. 0.02 mole) with bis(4-nitrophenyl)carbonate (6.1 g, i.e. 0.02 mole) and K2CO3 (0.2 g, i.e. 0.0014 mole) is heated to 240° C. for 4 hours. 400 cm3 of CO2 (i.e. about 0.017 mole) are recovered. At the end and after cooling 10 cm3 of a concentrated ammonia solution and 40 cm3 of dichloromethane are introduced. After 10 mn, 20 cm3 of a cold 5% sodium hydroxide are added. The organic phase is settled, dried and evaporated. By column liquid chromatography the dinitro-diphenyl ether is separated from the 4(4'-nitrophenoxy)chlorobenzene (m.p.: 76° C., 1.0 g, i.e. a 10% yield). The chlorine substituent (not electron attracting) does not provide good yields.

reactant | bis(4-chlorophenyl)carbonate | 0.02 mole, 5.7 g | ClC1=CC=C(C=C1)OC(OC1=CC=C(C=C1)Cl)=O | C13H8Cl2O3
reactant | bis(4-nitrophenyl)carbonate | 0.02 mole, 6.1 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H8N2O7
reactant | K2CO3 | 0.0014 mole, 0.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CO2 | about 0.017 mole, 400 cm3 | C(=O)=O | CO2
reactant | ammonia | 10 cm3 | N | H3N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
product | 4-(4'-nitrophenoxy)chlorobenzene | 10% yield | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)Cl)C=C1 | C12H8ClNO3
